US09302996B2
In tetrahydrofuran (66 mL) was dissolved methyl 5-chloropyrazine-2-carboxylate (3.3 g), and 1M diisobutylaluminum hydride/hexane solution (38.3 mL) was added dropwise to the solution under nitrogen atmosphere at −70° C. or lower over 10 minutes, and the resulting mixture was further stirred for 10 minutes. At −60° C. or lower, 1M diisobutylaluminum hydride/hexane solution (31.3 mL) was added dropwise to the mixture over 20 minutes, and the mixture was further stirred at −70° C. or lower for 1 hour. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and after stirring at room temperature, filtered with Celite. The filtrate was extracted with ethyl acetate, washed with a saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 80:20) to obtain 5-chloropyrazine-2-carbaldehyde (970 mg).

reactant | methyl 5-chloropyrazine-2-carboxylate | 3.3 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | diisobutylaluminum hydride hexane | 1M, 38.3 mL | [H-].C(C(C)C)[Al+]CC(C)C.CCCCCC
reactant | diisobutylaluminum hydride hexane | 1M, 31.3 mL | [H-].C(C(C)C)[Al+]CC(C)C.CCCCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 66 mL | O1CCCC1 | C4H8O
product | 5-chloropyrazine-2-carbaldehyde | 970 mg | ClC=1N=CC(=NC1)C=O | C5H3ClN2O
